US06254941B1
To a mixture of 4-fluorobutyltriphenylphosphonium bromide 273 g (660 mmol) and tetrahydrofuran (abbreviated THF hereinafter) 1000 ml, potasium-tert-butoxide 88 g (684 mmol) was added under ice cooling and stirred for one hour. Then, under ice cooling, a solution of 3-fluorobenzaldehyde 74 g (596 mmol) in THF 200 ml was added dropwise, and the mixture was stirred for one hour at room temperature. The reaction mixture was poured into hexane 1000 ml, and the crystals deposited were filtered off. The filtrate was concentrated, and distilled (93° C./6 mmHg) to obtain 3-(5-fluoro-1-pentenyl)fluorobenzene 86 g. (Yield:79.6%).

reactant | 4-fluorobutyltriphenylphosphonium bromide | 660 mmol, 273 g | [Br-].FCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potasium-tert-butoxide | 684 mmol, 88 g | CC(C)([O-])C.[K+]
reactant | 3-fluorobenzaldehyde | 596 mmol, 74 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | hexane | 1000 ml | CCCCCC | C6H14
solvent | THF | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 3-(5-fluoro-1-pentenyl)fluorobenzene | 86 g, Yield:79.6% | FCCCC=CC=1C=C(C=CC1)F | C11H12F2
